US06020366
(S)-2-Amino-4-dibenzofuran-2-yl-4-oxo-butyric acid
Methanol (40 mL) was saturated with gaseous ammonia at room temperature. To this solution was added (S)-4-dibenzofuran-2-yl-4-oxo-2-(2,2,2-trifluoroacetylamino)-butyric acid (0.5 g, 0.0013 mol) obtained above in Example 1. The reaction mixture was stirred at room temperature for 24 hours and then concentrated to dryness in vacuo. The residue was recrystallized from boiling methanol to yield the title product as a white solid (0.37 g, quant); mp 182-187° C.

reactant | ammonia | N | H3N
reactant | (S)-4-dibenzofuran-2-yl-4-oxo-2-(2,2,2-trifluoroacetylamino)-butyric acid | 0.0013 mol, 0.5 g | C1=C(C=CC=2OC3=C(C21)C=CC=C3)C(C[C@@H](C(=O)O)NC(C(F)(F)F)=O)=O | C18H12F3NO5
solvent | Methanol | 40 mL | CO | CH4O
product | (S)-2-Amino-4-dibenzofuran-2-yl-4-oxo-butyric acid | 0.37 g | N[C@H](C(=O)O)CC(=O)C1=CC2=C(OC3=C2C=CC=C3)C=C1 | C16H13NO4
